US06683184B2
1-[(2-Methoxyquinoxalin-3-yl)N-isopropylaminocarbonyl]-4-(3,5-dimethoxyphenyl)piperazine
To 1-[(2-methoxyquinoxalin-3-yl)aminocarbonyl]-4-(3,5-dimethoxyphenyl)piperazine (216 mg, 0.51 mmol) dissolved in dimethylformamide (20 ml), 60% sodium hydride (20.4 mg, 0.51 mmol) was added and stirred at room temperature for 15 minutes, and thereto propyl iodide (86.7 mg, 0.51 mmol) was added. The resulting mixture was stirred at room temperature for 6 hours, concentrated under the reduced pressure to remove the solvent and purified by column chromatography to obtain the titled compound.

reactant | 1-[(2-methoxyquinoxalin-3-yl)aminocarbonyl]-4-(3,5-dimethoxyphenyl)piperazine | 0.51 mmol, 216 mg | COC1=NC2=CC=CC=C2N=C1NC(=O)N1CCN(CC1)C1=CC(=CC(=C1)OC)OC | C22H25N5O4
reactant | sodium hydride | 0.51 mmol, 20.4 mg | [H-].[Na+]
reactant | propyl iodide | 0.51 mmol, 86.7 mg | C(CC)I | C3H7I
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 1-[(2-Methoxyquinoxalin-3-yl)N-isopropylaminocarbonyl]-4-(3,5-dimethoxyphenyl)piperazine | yield: 82.0% | COC1=NC2=CC=CC=C2N=C1N(C(=O)N1CCN(CC1)C1=CC(=CC(=C1)OC)OC)C(C)C | C25H31N5O4
